US05936098
In 400 ml of tetrahydrofuran, 42.0 g of 3-phenyl indole was solved. The solution and 25.0 g of potassium tert-butoxide added thereto at -30--20° C. were together heated to normal room temperature and stirred for 30 minutes. The reaction solution was cooled to -20--10° C. and 26 ml of benzoyl chloride added thereto were together heated to normal room temperature and stirred for one hour. The resultant mixture was poured into ice water and extracted with chloroform. The chloroform layer was dried over anhydrous magnesium sulfate, distilled to expel the chloroform, crystallized by addition of isopropyl ether, separated by filtration, and dried to obtain 60.0 g of 1-benzoyl-3-phenylindole (92.8%) having a melting point of 154-156° C.

reactant | 3-phenyl indole | 42.0 g | C1(=CC=CC=C1)C1=CNC2=CC=CC=C12 | C14H11N
reactant | potassium tert-butoxide | 25.0 g | CC(C)([O-])C.[K+]
reactant | benzoyl chloride | 26 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 1-benzoyl-3-phenylindole | 60.0 g, 92.8% | C(C1=CC=CC=C1)(=O)N1C=C(C2=CC=CC=C12)C1=CC=CC=C1 | C21H15NO
